US06960575B2
(2RS,3S)-3-(tert-Butoxycarbonyl)amino-2-hydroxy-4-phenylbutanenitrile (Reference compound No. 3-1)
A solution of sodium hydrogensulfite (0.92 g) in water (5 ml) is added to a suspension of (2S)-2-(tert-butoxycarbonyl)amino-3-phenylpropanal (2.00 g, Reference compound No. 2-1) in water (20 ml) under ice cooling, then the temperature is raised to room temperature, and the mixture is stirred overnight. Ethyl acetate (100 ml) is added to the mixture, and the whole is stirred for one hour. Then, a solution of potassium cyanide (0.58 g) in water (5 ml) is added thereto, and the whole is further stirred for four hours. The reaction mixture is extracted with ethyl acetate, and the extract is washed with saturated brine. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the titled reference compound (1.18 g).

reactant | sodium hydrogensulfite | 0.92 g | S(=O)(O)[O-].[Na+]
reactant | (2S)-2-(tert-butoxycarbonyl)amino-3-phenylpropanal | C(C)(C)(C)OC(=O)N[C@H](C=O)CC1=CC=CC=C1 | C14H19NO3
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium cyanide | 0.58 g | [C-]#N.[K+]
solvent | water | 5 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | (2RS,3S)-3-(tert-Butoxycarbonyl)amino-2-hydroxy-4-phenylbutanenitrile | 1.18 g | C(C)(C)(C)OC(=O)N[C@H](C(C#N)O)CC1=CC=CC=C1 | C15H20N2O3
